datasets/RMG-dataset.csv
rxn,Ea
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[O:1]([H:5])[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10],190.279
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[O:6]([H:7])[H:8]>>[C:0](#[C:1][C:2]([H:4])([H:5])[O:6][H:8])[H:3].[H:7],219.844
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[c:7]1([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:13])[H:4].[c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18],54.392
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[C:19]([H:20])([H:21])[H:22],17.2381
[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10])[H:8]>>[O:0]([O:1][C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[O:6]1)([H:9])[H:10])[H:8].[O:7][H:16],66.944
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:9]([C:8]([H:11])([H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14])[H:5])[H:4],2.5104
[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]=[C:6]([H:10])[H:11])[H:9])[H:8])[H:7]>>[C:0](#[C:1][C:2]1=[C:3]([H:8])[C:4]([H:9])=[C:5][C:6]1([H:10])[H:11])[H:7],75.06096
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])[H:4],56.1074
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](=[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:17]([C:16](=[C:15]([H:19])[H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])[H:8])[H:7],45.6474
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9][C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:9](=[C:8]([H:11])[H:12])[C:10]([H:13])([H:14])[H:15])[H:5])[H:4],-6.98728
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14][C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])([H:6])[C:14](=[C:13]([H:16])[H:17])[C:15]([H:18])([H:19])[H:20],25.64792
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12](=[S:13])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:11]([C:12](=[S:13])[H:16])([H:14])[H:15],30.9616
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[S:13][H:20])[H:16])([H:14])[H:15]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[S:13][H:20],124.809
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6](=[S:7])[H:8]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:6](=[S:7])[H:8],2.5104
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([H:27])([H:28])[H:29])[C:21]([H:30])([H:31])[H:32])([H:25])[H:26])([H:22])([H:23])[H:24]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][C:19]([C:18]([C:17]([H:22])([H:23])[H:24])([H:25])[H:26])([C:20]([H:27])([H:28])[H:29])[C:21]([H:30])([H:31])[H:32],51.4632
[C:0](=[N:1][H:4])([H:2])[H:3].[C:5]([H:6])([H:7])[H:8]>>[C:0](=[N:1])([H:2])[H:3].[H:4][C:5]([H:6])([H:7])[H:8],56.2037
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:5])[H:6],53.1786
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])[C:6]1([C:7]([H:20])([H:21])[H:22])[H:19])([H:8])([H:9])[H:10],40.9195
